US07157487B2
In THF (10 ml) and methanol (5 ml) was dissolved methyl 4-(1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylate (580 mg, 1.1 mmol), that is, a mixture of two diastereomers (cis and trans forms). After addition of 1N NaOH (1.5 ml, 1.5 mmol), the mixture was stirred at 70° C. for 24 hours. The residue obtained by distilling off the solvent under reduced pressure, was acidified weakly with 1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure. The resulting crystals were washed with water and dried under reduced pressure, whereby 4-(1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylic acid was obtained as a mixture of two diasteromers. The mixture was separated by HPLC (C18 column, eluting with 0.02N acetate buffer-acetonitrile (1:1, v/v)), whereby Isomer A (150 mg, 27%) was obtained as a white crystalline solid.

reactant | methyl 4-(1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylate | 1.1 mmol, 580 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](CCC2)COC2CCC(CC2)C(=O)OC | C29H35N3O5
reactant | NaOH | 1.5 mmol, 1N, 1.5 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 4-(1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylic acid | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](CCC2)COC2CCC(CC2)C(=O)O | C28H33N3O5
